US04678792
(a) N-Formyl-2-(3,4-dimethoxyphenyl)-ethylamine
First, 2-(3,4-dimethoxyphenyl)-ethylamine (181.2 g, 1 mol) and chloral hydrate (181 g, 1.1 mol) are mixed together and heated to 120° C., with stirring, for 20 minutes and any volatile components (chloroform and water) are eliminated in a water jet vacuum at an oil bath temperature of 140° C. An oil is left behind which is further processed without any purification.

reactant | 2-(3,4-dimethoxyphenyl)-ethylamine | 1 mol, 181.2 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | chloral hydrate | 1.1 mol, 181 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-Formyl-2-(3,4-dimethoxyphenyl)-ethylamine | C(=O)NCCC1=CC(=C(C=C1)OC)OC | C11H15NO3
